US05550240
After dropping 23.7 ml (286.6 mmoles) of pyrrolidine to a mixture containing 25.0 g (136.3 mmoles) of 2,4,6-trichloropyrimidine in 200 ml of tetrahydrofuran at -20° C. within about 30 minutes, the cooling is stopped and after stirring for an additional 30 minutes the reaction mixture is evaporated. After distributing the residue between 500 ml of chloroform and 50 ml of 10% sodium hydroxide solution, the organic phase is separated, washed 4 times with 150 ml of water each, then dried and evaporated. The residue is subjected to chromatography on a silica gel column. By using a 19:1 hexane/ethyl acetate mixture as eluent the eluate is evaporated and the evaporation residue is recrystallized from hexane to give 7.51 g (25.27%) of 4,6-dichloro-2-pyrrolidinopyrimidine, m.p. 95°-98° C.

reactant | pyrrolidine | 286.6 mmoles, 23.7 ml | N1CCCC1 | C4H9N
reactant | 2,4,6-trichloropyrimidine | 136.3 mmoles, 25.0 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4,6-dichloro-2-pyrrolidinopyrimidine | 7.51 g, 25.27% | ClC1=NC(=NC(=C1)Cl)N1CCCC1 | C8H9Cl2N3
